US05510490
To a acetonitrile solution containing 3 gms of Ag(1)F. 1.2 gms of dipolarophile (6-chloro-3-vinyl pyridine) was added to 2 gms of N-methyl-2,5-di(trimethyl silyl) pyrrolidine at 25° C. After stirring the reaction mixture for 2 to 2.5 hours, the reaction mixture was filtered through a plug of celite. The solvent was evaporated to give N-methyl Epibatidine in 80% yield which was further purified by column chromatography. Hydrogenation of N-methyl Epibatidine with pd/c for 22 hours gave 70% yield of Epibatidine.

reactant | 6-chloro-3-vinyl pyridine | ClC1=CC=C(C=N1)C=C | C7H6ClN
reactant | N-methyl-2,5-di(trimethyl silyl) pyrrolidine | 2 gms | CN1C(CCC1[Si](C)(C)C)[Si](C)(C)C | C11H27NSi2
solvent | acetonitrile | C(C)#N | C2H3N
product | N-methyl Epibatidine | 80% yield | CN1C2CCC1C(C2)C3=CN=C(C=C3)Cl | C12H15ClN2
